US04021441
In the manner given in Example 31, 8-bromo-1-(chloromethyl)- 6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine, potassium iodide and allylamine in tetrahydrofuran are reacted to give 8-bromo-1-[(allylamino)methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 8-bromo-1-(chloromethyl)- 6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=CC=CC=C3)C1 | C17H12BrClN4
reactant | potassium iodide | [I-].[K+]
reactant | allylamine | C(C=C)N | C3H7N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 8-bromo-1-[(allylamino)methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC=1C=CC2=C(C(=NCC=3N2C(=NN3)CNCC=C)C3=CC=CC=C3)C1 | C20H18BrN5
